### PR TITLE
feat(Analysis/Normed/ValuativeRel): helper instance for NormedField

### PR DESCRIPTION
**Pull request by pechersky**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

- [x] depends on: #26713
- [x] depends on: #26826

### CODE REVIEW

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 1]
```diff
@@ -17,28 +18,52 @@ to facilitate a refactor.
...
 
-open ValuativeRel TopologicalSpace Filter Topology Set
+open ValuativeRel TopologicalSpace Filter Topology Set Uniformity
 
 local notation "v" => valuation R
 
+lemma of_hasBasis (h : (𝓝 (0 : R)).HasBasis (fun _ ↦ True)
+    fun γ : (ValueGroupWithZero R)ˣ ↦ { x | v x < γ }) :
+    ValuativeTopology R :=
+  ⟨by simp [h.mem_iff]⟩
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: Shouldn't this (and possibly a bunch of other things) be done for any compatible valuation? In fact, would it be interesting to change the definition of the topology to not refer to the canonical valuation, by replacing the balls `{x | v x < r}` with `{x | u * x ≤ᵥ y}` where `y` is in `R` and `u` in `posSubmonoid r`? This way it's clear that the topology is still determined by any compatible valuation.

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 2]
```diff
@@ -48,36 +73,85 @@ theorem mem_nhds {s : Set R} {x : R} :
...
+instance : IsTopologicalRing R := by
+  convert (valuation R).subgroups_basis.toRingFilterBasis.isTopologicalRing
+  rw [TopologicalSpace.ext_iff_nhds]
+  intro x
+  ext s
+  simp [(RingSubgroupsBasis.hasBasis_nhds _ _).mem_iff, mem_nhds, Valuation.ltAddSubgroup]
+
+/-- A ring with a topological additive structure and a valuative relationship is
+a uniform space made up of entourages of the form `{ (x, y) | v (y - x) < γ }`.
+However, this is a global instance to prevent timeouts in typeclass inference,
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: You mean "this isn't", right?

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean (hunk 1 above)
Comment (pechersky) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: @adamtopaz what do you think of such a redefinition of the class? I can show an iff in the meantime.

Comment (pechersky) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: Hmm, it's not an `iff`, because `u * x ≤ᵥ y` means `v u * v x ≤ v y`, while the topology has a strict inequality.

Comment (ADedecker) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: Ah right, I meant the strict inequality (so the negation of the converse). That should work right?

Comment (pechersky) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: > This way it's clear that the topology is still determined by any compatible valuation.

I think that "compatibility" here has to be very powerful. Because on its own, I could have a valuation that maps to `Zm0`, and another that maps into `Zm0 x Zm0` where the first component is always 1. Then something like `(-1, 1)` is a unit, but everything in the nonzero range of my valuation is greater than that. So this new valuation induces a discrete topology, because there the ideal less than the unit is the `{0}`.

Here it is formalized:
```
import Mathlib

open WithZero LinearOrderedCommGroupWithZero

variable {R : Type*} [CommRing R] (v : Valuation R ℤᵐ⁰)

def other : Valuation R (WithZero (ℤᵐ⁰ˣ ×ₗ ℤᵐ⁰ˣ)) where
  toMonoidWithZeroHom := (inr _ _).toMonoidWithZeroHom.comp v.toMonoidWithZeroHom
  map_add_le_max' := by
    intro x y
    simpa using ((inr ℤᵐ⁰ _).monotone' (v.map_add_le_max' x y))

lemma other_apply {x : R} (hx : v x ≠ 0) :
    other v x = WithZero.coe (toLex (1, Units.mk0 (v x) hx)) := by
  -- simp lemmas get in the way
  change (inr _ _) (v x) = _
  simp [inr_eq_coe_inrₗ hx]

lemma isEquiv : v.IsEquiv (other v) := by
  intro r s
  by_cases hr : v r = 0
  · simp [hr, other]
  by_cases hs : v s = 0
  · simp [hs, other]
  simp [other_apply v hr, other_apply v hs, Prod.Lex.toLex_le_toLex, ← Units.val_le_val]

lemma problem :
    ∃ (r : (WithZero (ℤᵐ⁰ˣ ×ₗ ℤᵐ⁰ˣ))ˣ), ∀ x : R, other v x < r → v x = 0 := by
  let r := OrderMonoidHom.inlₗ ℤᵐ⁰ˣ ℤᵐ⁰ˣ
    (OrderMonoidIso.unitsWithZero.symm (Multiplicative.ofAdd (-1)))
  use OrderMonoidIso.unitsWithZero.symm r
  intro x
  contrapose!
  intro hx
  rw [other_apply v hx]
  simp [r, Prod.Lex.toLex_le_toLex, ← Units.val_lt_val, ← Multiplicative.toAdd_lt]
```

Comment (ADedecker) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: This is just the usual codomain issue right? By "the topology is determined by any compatible valuation", I indeed meant that you would only take radii in the nonzero range of the valuation.

My reasoning behind this proposal is that, I assumed, there will be cases where there's one convenient valuation at hand to study the topology (e.g the one coming from the Haar measure for local fields, or the p-adic one on p-adics, etc...), and it would be a pain to always have to translate back to the "canonical" valuation associated to the `ValuativeRel`. But I'm no number theorist, so I may well be completely wrong about the way you think about this.

Comment (adamtopaz) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: The whole point of `ValuativeRel` is to avoid having to keep around another type for the codomain of the valuation. IMO, `ValuativeTopology` should only involve the underlying type of the ring itself, so I don't think we should define it in terms of some arbitrary compatible valuation. If you want to define a $$<_v$$ in terms of $$\le_v$$ and use that to define `ValuativeTopology`, then that's something I would support. 

I understand that in practice there would be rings which obtain a topology from some seminorm, but I think in such cases `ValuativeRel` would also be *defined* in terms of the seminorm.

Comment (ADedecker) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: Sure, nothing should be defined in terms of an arbitrary valuation. My point is that we should be able to study the topology by means of any preferred valuation which is compatible.

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 3]
```diff
@@ -17,6 +18,33 @@ to facilitate a refactor.
...
+    IsTransitiveRel { p : R × R | v (p.2 - p.1) < r } := by
+  intro _ _ _ h h'
+  refine (Valuation.map_add_lt v h h').trans_eq' ?_
+  simp
+
+lemma isTransitiveRel_uniformity_ball_le (r : Γ₀) :
+    IsTransitiveRel { p : R × R | v (p.2 - p.1) ≤ r } := by
+  intro _ _ _ h h'
+  refine (Valuation.map_add_le v h h').trans_eq' ?_
+  simp
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean:45]: I think these should be separate `def`initions (and not `abbrev`, very importantly)

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 4]
```diff
@@ -103,21 +139,67 @@ instance (priority := low) isTopologicalAddGroup : IsTopologicalAddGroup R := by
...
+  rw [TopologicalSpace.ext_iff_nhds]
+  intro x
+  ext s
+  simp [(RingSubgroupsBasis.hasBasis_nhds _ _).mem_iff, mem_nhds_iff, Valuation.ltAddSubgroup,
+    neg_add_eq_sub]
+
+/-- A ring with a topological additive structure and a valuative relationship is
+a uniform space made up of entourages of the form `{ (x, y) | v (y - x) < γ }`.
+However, this is not a global instance to prevent timeouts in typeclass inference,
+since otherwise, TC search for `UniformSpace R` will start exploring `ValuativeTopology R`. -/
```
Comment (kbuzzard) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]:
```suggestion
since otherwise, TC search for `UniformSpace R` will start exploring `IsValuativeTopology R`. -/
```

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean (hunk 3 above)
Comment (kbuzzard) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean:45]: @kckennylau what do you mean? These are lemmas not data.

Comment (kckennylau) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean:45]: I meant that `{ p : R × R | v (p.2 - p.1) < r }` etc. should be definitions

File: Mathlib/Analysis/Normed/ValuativeRel.lean [hunk 5]
```diff
@@ -0,0 +1,95 @@
...
+variable {R : Type*} [NormedCommRing R] [NormOneClass R]
+  [NormMulClass R] [IsUltrametricDist R]
+
+open Filter Set Valuation
+
+open scoped NNReal
+
+namespace NormedField
+
+/-- The valuation on a nonarchimedean normed field `K` defined as `nnnorm`.
```
Comment (kbuzzard) [inline Mathlib/Analysis/Normed/ValuativeRel.lean:37]: But it's about a normed commring R? Should this be in the NormedField namespace? Confused.

**Review by kbuzzard — COMMENTED** [review]
Other than my confusion about why a definition about normed rings is in the normed field namespace, this looks fine. What do you think about Kenny's idea?

File: Mathlib/Analysis/Normed/ValuativeRel.lean (hunk 5 above)
Comment (pechersky) [reply Mathlib/Analysis/Normed/ValuativeRel.lean:37]: Unfortunately, this is `NormedCommRing` + `NormOneClass` + `NormMulClass`, which gives the multiplicative normed structure, as opposed to the submultiplicative norm (`‖x * y‖ ≤ ‖x‖ ‖y‖`) property. I'll change the docstring. However, I think it still makes sense to keep the NormedField namespace because of this. And this file uses `Normed.Field.Lemmas`.

File: Mathlib/Analysis/Normed/ValuativeRel.lean [hunk 6]
```diff
@@ -0,0 +1,101 @@
...
+  map_one'        := nnnorm_one
+  map_mul'        := nnnorm_mul
+  map_add_le_max' := IsUltrametricDist.norm_add_le_max
+
+@[simp]
+theorem valuation'_apply (x : R) : valuation' x = ‖x‖₊ := rfl
+
+/-- A nonarchimedean normed ring carries a valuative relation induced by the norm.
+This is a scoped instance. -/
+def toValuativeRel : ValuativeRel R := .ofValuation valuation'
```
Comment (erdOne) [inline Mathlib/Analysis/Normed/ValuativeRel.lean]:
```suggestion
@[reducible] def toValuativeRel : ValuativeRel R := .ofValuation valuation'
```
See `library note[reducible non-instance]`

File: Mathlib/Analysis/Normed/ValuativeRel.lean [hunk 7]
```diff
@@ -0,0 +1,101 @@
...
+
+open Filter Topology
+
+scoped[NormedField] attribute [instance] NormedField.toValuativeRel
+
+lemma rel_iff_le (x y : R) : x ≤ᵥ y ↔ ‖x‖ ≤ ‖y‖ := Iff.rfl
+
+lemma norm_pos_posSubmonoid (x : (ValuativeRel.posSubmonoid R)) :
```
Comment (erdOne) [inline Mathlib/Analysis/Normed/ValuativeRel.lean]:
```suggestion
lemma norm_pos_posSubmonoid (x : ValuativeRel.posSubmonoid R) :
```
This lemma looks quite weird to me. I think we shouldn't work with bundled `ValuativeRel.posSubmonoid R` in the first place?

File: Mathlib/Analysis/Normed/ValuativeRel.lean [hunk 8]
```diff
@@ -0,0 +1,101 @@
...
+    0 < ‖(x : R)‖ := by
+  simp
+
+instance : (valuation' (R := R)).Compatible := .ofValuation _
+
+instance : ValuativeRel.IsRankLeOne R :=
+  .of_compatible_mulArchimedean (valuation' (R := R))
+
+instance {K : Type*} [NormedField K] [IsUltrametricDist K] :
```
Comment (erdOne) [inline Mathlib/Analysis/Normed/ValuativeRel.lean]: If `NormedField.toValuativeRel` is scoped, should all these be scoped as well?

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 9]
```diff
@@ -120,21 +156,67 @@ instance (priority := low) isTopologicalAddGroup : IsTopologicalAddGroup R := by
...
+local instance : UniformSpace R := IsTopologicalAddGroup.toUniformSpace R
+
+open Uniformity in
+theorem hasBasis_uniformity : (𝓤 R).HasBasis (fun _ => True)
+    fun γ : (ValueGroupWithZero R)ˣ => { p : R × R | v (p.2 - p.1) < γ } := by
+  rw [uniformity_eq_comap_nhds_zero']
+  exact (hasBasis_nhds_zero R).comap _
+
+instance (priority := low) : IsUniformAddGroup R := isUniformAddGroup_of_addCommGroup
+instance (priority := low) : IsUltraUniformity R := by
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]:
```suggestion
instance (priority := low) : IsUniformAddGroup R := isUniformAddGroup_of_addCommGroup

instance (priority := low) : IsUltraUniformity R := by
```

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 10]
```diff
@@ -120,21 +156,67 @@ instance (priority := low) isTopologicalAddGroup : IsTopologicalAddGroup R := by
...
+  intro x
+  ext s
+  simp [(RingSubgroupsBasis.hasBasis_nhds _ _).mem_iff, mem_nhds_iff, Valuation.ltAddSubgroup,
+    neg_add_eq_sub]
+
+/-- A ring with a topological additive structure and a valuative relationship is
+a uniform space made up of entourages of the form `{ (x, y) | v (y - x) < γ }`.
+However, this is not a global instance to prevent timeouts in typeclass inference,
+since otherwise, TC search for `UniformSpace R` will start exploring `IsValuativeTopology R`. -/
+local instance : UniformSpace R := IsTopologicalAddGroup.toUniformSpace R
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: This is really weird. Shouldn't you just assume `[UniformSpace R] [IsUniformAddGroup R]`?

File: Mathlib/Analysis/Normed/ValuativeRel.lean (hunk 6 above)
Comment (pechersky) [reply Mathlib/Analysis/Normed/ValuativeRel.lean]: Why? The only thing that is mentioned in the instance is other `R` instances. I will change it though (`abbrev`), just trying to learn.

File: Mathlib/Analysis/Normed/ValuativeRel.lean (hunk 7 above)
Comment (pechersky) [reply Mathlib/Analysis/Normed/ValuativeRel.lean]: We get such bundled terms from `ValuativeRel.exists_valuation_div_valuation_eq` and friends.

File: Mathlib/Analysis/Normed/ValuativeRel.lean (hunk 6 above)
Comment (erdOne) [reply Mathlib/Analysis/Normed/ValuativeRel.lean]: My understanding is that `instance`s are automatically reducible so scoped instances should get tagged reducible for consistency and predictability. See the library note somewhere in mathlib for a better/more detailed argument.

File: Mathlib/Analysis/Normed/ValuativeRel.lean (hunk 8 above)
Comment (pechersky) [reply Mathlib/Analysis/Normed/ValuativeRel.lean]: It seems that it doesn't make a difference, because they won't fire without the scope opened:
```
variable {K : Type*} [NormedField K] [IsUltrametricDist K]

/-- error: failed to synthesize
  ValuativeRel K

Hint: Additional diagnostic information may be available using the `set_option diagnostics true` command.  -/
#guard_msgs in
#synth Valuation.Compatible (NormedField.valuation' (R := K))
```

Comment (erdOne) [reply Mathlib/Analysis/Normed/ValuativeRel.lean]: But I am guessing that they would be tried and potentially cause bad performance.

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean (hunk 10 above)
Comment (pechersky) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: We don't have API to show that when `IsTopologicalGroup`, then any UniformSpace is necessarily equal to the one from `IsTopologicalGroup.toUniformSpace`.

In fact, in the `IsUniformGroup` file, there is also a
```
attribute [local instance] IsTopologicalGroup.toUniformSpace
```

Comment (erdOne) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: Because you need to assume `IsUniformAddGroup` and not `IsTopologicalGroup`; the latter is not enough. The lemma you want is `uniformity_eq_comap_nhds_zero`.

Comment (pechersky) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: `isUniformAddGroup_of_addCommGroup` also explicitly only works on the `UniformSpace` that comes from `IsTopologicalAddGroup.toUniformSpace`.

Comment (erdOne) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: Because that is used to show that `IsTopologicalAddGroup.toUniformSpace` gives the correct uniformity?

But downstream lemma should work for any uniformity that is compatible.
